US04167632
A solution of 0.82 g. of 5-chloro-3-phenylisoindole-1-carboxylic acid 3-[(methylsulfonyl)oxy]propyl ester in 8 ml. of acetone is treated with 2 ml. of diethylamine and the mixture is boiled at reflux for 5 hours. The mixture is then concentrated to dryness under reduced pressure and the residue partitioned between 15 ml. of water and 15 ml. of diethyl ether. The ethereal phase is treated with 6 ml. of 0.5-N hydrochloric acid and the mixture shaken well. After cooling in an ice-bath, the hydrochloride which crystallizes out is removed by filtration, dried and recrystallized from methanol/diethyl ether, and there is obtained 5-chloro-3-phenylisoindole-1-carboxylic acid 3-(diethylamino)propyl ester hydrochloride having a melting point of 248°-251° C. (decomposition).

reactant | 5-chloro-3-phenylisoindole-1-carboxylic acid 3-[(methylsulfonyl)oxy]propyl ester | CS(=O)(=O)OCCCOC(=O)C=1NC(=C2C=C(C=CC12)Cl)C1=CC=CC=C1 | C19H18ClNO5S
reactant | diethylamine | C(C)NCC | C4H11N
solvent | acetone | CC(=O)C | C3H6O
product | 5-chloro-3-phenylisoindole-1-carboxylic acid 3-(diethylamino)propyl ester hydrochloride | Cl.C(C)N(CCCOC(=O)C=1NC(=C2C=C(C=CC12)Cl)C1=CC=CC=C1)CC | InChI=1S/C22H25ClN2O2.ClH/c1-3-25(4-2)13-8-14-27-22(26)21-18-12-11-17(23)15-19(18)20(24-21)16-9-6-5-7-10-16;/h5-7,9-12,15,24H,3-4,8,13-14H2,1-2H3;1H
